US04923987
A solution of 23 g of 1-nitro-1-(tetrahydro-2H-1,3-thiazin-2-yl-idene)-2-pentanone in 200 ml of monoglyme was added dropwise at 0° C. to a suspension of 4.65 g of a 57% sodium hydride/mineral oil dispersion in 100 ml of monoglyme. The stirred mixture was allowed to warm to room temperature and stirred overnight. A solution of 8.2 g of acetyl chloride in 50 ml of monoglyme was added dropwise to the reaction at 0° C. The resulting mixture was stirred for one hour at 0° C., then allowed to warm to room temperature and stirred for 30 minutes. The mixture was diluted with chloroform and extracted with 10% sodium hydroxide solution. The organic phase was separated, washed with water, then with saturated sodium chloride solution, and dried Na2SO4), and the solvent was evaporated under reduced pressure. The resulting liquid was chromatographed, using a wet column with silica gel. As eluent, there was first used 2 litres of a 98/2 chloroform/acetone mixture, then a 95/5 chloroform/acetone mixture was used. Three fractions were obtained. The last fraction was triturated with ether, then cooled, to give a solid yellow product, 3-acetyl-2-nitromethylene-tetrahydro-2-H-1,3-thiazine, m.p. 91°-92.5° C.

reactant | 1-nitro-1-(tetrahydro-2H-1,3-thiazin-2-yl-idene)-2-pentanone | 23 g | [N+](=O)([O-])C(C(CCC)=O)=C1SCCCN1 | C9H14N2O3S
reactant | sodium hydride | [H-].[Na+]
reactant | acetyl chloride | 8.2 g | C(C)(=O)Cl | C2H3ClO
solvent | monoglyme | 200 ml | C(OC)COC | C4H10O2
solvent | monoglyme | 100 ml | C(OC)COC | C4H10O2
solvent | monoglyme | 50 ml | C(OC)COC | C4H10O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-acetyl-2-nitromethylene-tetrahydro-2-H-1,3-thiazine | C(C)(=O)N1C(SCCC1)=C[N+](=O)[O-] | C7H10N2O3S
